US06762180B1
(8) 4-(2-dimethylamino-ethyl-amino)-1,3-dinitrobenzene
Prepared from 1-chloro-2,4-dinitro-benzene and N,N-dimethyl-ethylenediamine

reactant | 1-chloro-2,4-dinitro-benzene | ClC1=C(C=C(C=C1)[N+](=O)[O-])[N+](=O)[O-] | C6H3ClN2O4
reactant | N,N-dimethyl-ethylenediamine | CN(CCN)C | C4H12N2
product | 4-(2-dimethylamino-ethyl-amino)-1,3-dinitrobenzene | CN(CCNC1=C(C=C(C=C1)[N+](=O)[O-])[N+](=O)[O-])C | C10H14N4O4
